US04960938
A 2 L, round-bottomed, 3-necked flask was charged with 830 g of 50% aqueous potassium hydroxide solution, and 333 g of 2-chlorobenzylphthalimide. The reaction mixture was then heated under reflux (pot temperature 125-128° C.) for 21 hours with stirring. It was then cooled in iced-water and allowed to settle in a separating funnel. The lower aqueous layer was drained, diluted with 2 L of water and acidified with 676 g of concentrated hydrochloric acid (with cooling). This caused the formation of a white precipitate, which was collected by filtration and dried in a vacuum oven overnight to yield 199.9 g of phthalic acid (98%). The organic layer was essentially pure (99.9% by GC) 2-chlorobenzylamine (163.4 g, 1.15 mol, 93.5%).

reactant | potassium hydroxide | 830 g | [OH-].[K+]
reactant | 2-chlorobenzylphthalimide | 333 g | ClC1=C(CC2=C3C(C(=O)NC3=O)=CC=C2)C=CC=C1 | C15H10ClNO2
reactant | hydrochloric acid | 676 g | Cl | ClH
reactant | water | 2 L | O | H2O
product | phthalic acid | 199.9 g, 98% | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
